US05219856
PART A: Preparation of 5-Methoxycarbonyl-4-[4-(2-pyridyl)-piperazin-1-yl]carbonyl-2-propyl-1-[(2'-(N-trityltetrazol-5-yl)biphen-4-yl)methyl]imidazole
To a solution of 0.72 g (4.4 mmol) of 1-(2-pyridyl)piperazine in 10 mL of anhydrous CH2C12 under N2 was added 4.4 mL (4.4 mmol) of a 1 N solution of HCl in ether. After 15 min., the suspension was cooled to 10° C. and treated with 2.2 mL (4.4 mmol) of 2.0 M Me3Al in toluene. Slow gas evolution was noted. After 30 min., a solution of 2.81 g (4.00 mmol) of 4,5-bis(methoxycarbonyl)-2-propyl-1-[(2'-(N-trityltetrazol-5-yl)biphen-4-yl)methyl]imidazole in 12 mL of CH2C12 was added. The reaction mixture was allowed to warm to room temperature and stir for 2 h, then partitioned between EtOAc and H2O. The water layer was washed with EtOAc and the combined organic extracts were washed with water and brine, then dried over MgSO4. After removal of solvents at reduced pressure, the residual tan foam (4.08 g) was purified using flash chromatography (eluent: 50/50 EtOAc-hexane to 1% MeOH-EtOAc) to give 2.36 g (71%)of the title compound as a white foam. 1H NMR (300 MHz, CDCl3): δ0.88 (t, J=7.5 Hz, 3H, CH3); 1.70 (sextet, J=7.5 Hz, 2H, CH2); 2.52 (t, J=7.5 Hz, 2H, CH2); 3.45 (m, 2H, piperazine); 3.54 (m, 2H, piperazine); 3.63 (m, 2H, piperazine); 3.71 (s, 3H, CO2CH3); 3.93 (m, 2H, piperazine); 5.46 (s, 2H, benzyl); 6.67 (m, 2H, aromatic); 6.82 (d, J=8.0 Hz, 2H, p-disubstituted aromatic); 6.94 (d, J=7.5 Hz, 6H, trityl); 7.11 (d, J=8.0 Hz, 2H, p-disubstituted aromatic); 7.2-7.4 (m, 10H, aromatic); 7.4-7.5 (m, 3H, aromatic); 7.91 (dd, J=7.0, 6.0 Hz, 1H, tetrazolyl-phenyl); 8.19 (approx. dd, J=5.5, 2.0 Hz, 1H, pyridyl).

reactant | 1-(2-pyridyl)piperazine | 4.4 mmol, 0.72 g | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | HCl | Cl | ClH
reactant | Me3Al | 4.4 mmol, 2.0 M, 2.2 mL | C[Al](C)C
reactant | 4,5-bis(methoxycarbonyl)-2-propyl-1-[(2'-(N-trityltetrazol-5-yl)biphen-4-yl)methyl]imidazole | 4.00 mmol, 2.81 g | COC(=O)C=1N=C(N(C1C(=O)OC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC | C43H38N6O4
solvent | ether | CCOCC | C4H10O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-Methoxycarbonyl-4-[4-(2-pyridyl)-piperazin-1-yl]carbonyl-2-propyl-1-[(2'-(N-trityltetrazol-5-yl)biphen-4-yl)methyl]imidazole | 2.36 g, 71% | COC(=O)C1=C(N=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC)C(=O)N1CCN(CC1)C1=NC=CC=C1 | C51H47N9O3
